US05698577
(E)-3-(4-Chloroacetylaminophenyl)acrylic acid
4-Aminocinnamic acid hydrochloride (5 g, 25 mmol) were suspended in 30 ml of methylene chloride, cooled to 8° C. and treated with 3 ml of pyridine and 4.47 g (26 mmol) of chloroacetic anhydride. The mixture was then left to stir at room temperature overnight. The suspension was suction filtered and the filter cake was washed in water and filtered. Yield: 5.1 g (85%).

reactant | 4-Aminocinnamic acid hydrochloride | 25 mmol, 5 g | Cl.NC1=CC=C(C=CC(=O)O)C=C1
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | chloroacetic anhydride | 26 mmol, 4.47 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | (E)-3-(4-Chloroacetylaminophenyl)acrylic acid | ClCC(=O)NC1=CC=C(C=C1)/C=C/C(=O)O | C11H10ClNO3
